US07544812B2
2-Methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid
To a mixture of 54 mg of 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester in 2 mL of dry DMF at 0° C. under an atmosphere of nitrogen, 10 mg of NaH (0.253 mmol) is added. The resulting solution is allowed to stand at ambient temperature for 20 min. Then 61 mg of 4-trifluoromethylbenzyl bromide is added and resulting mixture is allowed to stand at ambient temperature for overnight. Reaction mixture is diluted with Et2O and 1N HCl. Organic layer is then washed with 1N HCl (2×10 mL), brine (2×10 mL), dried over Na2SO4, filtered and concentrated under vacuum. The crude material is in 5 mL of EtOH and 0.3 mL of 5N NaOH. The mixture is heated to reflux for 1 h. The organic solvent is then removed under vacuum and residue is dissolved in CH2Cl2 and 1N HCl. Aqueous layer is washed with CH2Cl2 (2×10 mL). Combined organic layer is dried over Na2SO4, filtered and concentrated under vacuum. The crude material is purified by MS/LC to give 35 mg (49%) of the title product. 1H NMR (400 MHz, CDCl3): δ 7.56 (d, 2H, J=8.0 Hz), 7.35 (d, 2H, J=8.0 Hz), 7.28-7.18 (m, 4H), 7.05 (t, 1H, J=7.2 Hz), 6.91 (d, 2H, J=8.0 Hz), 6.74 (d, 2H, J=8.0 Hz), 5.49 (bs, 1H), 4.45, 4.39 (ABq, 2H, J=15.4 Hz), 3.98 (t, 2H, J=5.8 Hz), 3.77-3.65 (m, 1H), 3.42 (t, 1H, J=8.5 Hz), 3.28, 3.14 (ABq, 2H, J=14.0 Hz), 3.05 (t, 1H, J=8.5 Hz), 2.86 (s, 3H), 2.28-2.20 (m, 1H), 1.95-1.85 (m, 1H), 1.43 (s, 3H). HRMS (ES+) m/z exact mass calcd for C30H32N2O5F3 (m+1) 557.2263, found 557.2257.

reactant | 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester | 54 mg | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(OC1=CC=CC=C1)C)=O | C24H30N2O5
reactant | NaH | 0.253 mmol, 10 mg | [H-].[Na+]
reactant | 4-trifluoromethylbenzyl bromide | 61 mg | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
solvent | HCl | 1N | Cl | ClH
product | 2-Methyl-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid | 35 mg, 49% | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)OC1=CC=CC=C1 | C30H31F3N2O5
